* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 47k
R2 N002 N003 47k
R3 N001 N002 680k
R4 N002 0 47k
R5 N003 0 47k
I1 N001 0 20

.end